US04598079
3-(3,4-dimethoxyphenyl)-4-formylpiperazin-2-one
23.6 g (0.1 mol) of 3-(3,4-dimethoxyphenyl)-piperazin-2-one, prepared in accordance with Example 1, are heated at 110° C. with 150 ml of methyl formate for 3 hours in an autoclave. The residue remaining after the mixture has been concentrated in vacuo is triturated with ether, filtered off with suction and dried.

reactant | 3-(3,4-dimethoxyphenyl)-piperazin-2-one | 0.1 mol, 23.6 g | COC=1C=C(C=CC1OC)C1C(NCCN1)=O | C12H16N2O3
reactant | methyl formate | 150 ml | C(=O)OC | C2H4O2
product | 3-(3,4-dimethoxyphenyl)-4-formylpiperazin-2-one | COC=1C=C(C=CC1OC)C1C(NCCN1C=O)=O | C13H16N2O4
